US08193359B2
4-(2-Hydroxy-2-oxazolo[4,5-c]pyridin-2-ylethyl)piperidine-1-carboxylic acid tert-butyl ester
i-PrMgCl (0.44 mL of a 2 mmol/mL solution in THF, 0.88 mmol) was added dropwise to a stirred solution of oxazolo[4,5-c]pyridine (105 mg, 0.87 mmol) in anhydrous THF (3 mL) at 0° C. After 1 h, a solution of 4-(2-oxo-ethyl)piperidine-1-carboxylic acid tert-butyl ester (198 mg, 0.87 mmol) in anhydrous THF (2 mL) was added, then the mixture was allowed to warm to 20° C. over 16 h, before being quenched with saturated aqueous NH4Cl (10 mL). The layers were separated, then the aqueous phase was extracted with EtOAc (3×15 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated in vacuo. Flash chromatography (EtOAc) of the residue furnished the title compound: m/z (ES+)=348.1 [M+H]+.

reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | oxazolo[4,5-c]pyridine | 0.87 mmol, 105 mg | O1C=NC=2C=NC=CC21 | C6H4N2O
reactant | 4-(2-oxo-ethyl)piperidine-1-carboxylic acid tert-butyl ester | 0.87 mmol, 198 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC=O | C12H21NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(2-Hydroxy-2-oxazolo[4,5-c]pyridin-2-ylethyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C=1OC2=C(C=NC=C2)N1)O | C18H25N3O4
